US03997574
A mixture of 534 mg of 17-ethylenedioxy-3-methoxy-9α-methylestra-1,3,5-(10)-trien-11-one, 1 g of hydrazine dihydrochloride and 5 g of hydrazine hydrate in 35 g of triethyleneglycol is heated to a temperature of 130° and maintained there for 21/2 hours. After this time, 1.8 g of potassium hydroxide pellets is added and the temperature raised to 210°. This temperature is also maintained for 21/2 hours whilst a mixture of hydrazine and water is slowly allowed to distill out. The reaction mixture is cooled and diluted with water affording a precipitate which is collected by filtration. The solid is dissolved in methylene chloride and the organic solution is dried over sodium sulfate. Removal of the solvent leaves a residue which is crystallized from hexane-ether to yield 17-ethylenedioxy-3-methoxy-9α-methylestra-1,3,5(10)-triene, m.p. 115° C.

reactant | 17-ethylenedioxy-3-methoxy-9α-methylestra-1,3,5-(10)-trien-11-one | 534 mg | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1CCC=2C=C(C=CC2[C@]1(C(C3)=O)C)OC | C22H28O4
reactant | hydrazine dihydrochloride | 1 g | Cl.Cl.NN
reactant | hydrazine hydrate | 5 g | O.NN
reactant | potassium hydroxide | 1.8 g | [OH-].[K+]
reactant | hydrazine | NN | H4N2
solvent | triethyleneglycol | 35 g | C(COCCOCCO)O | C6H14O4
solvent | water | O | H2O
product | 17-ethylenedioxy-3-methoxy-9α-methylestra-1,3,5(10)-triene | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1CCC=2C=C(C=CC2[C@]1(CC3)C)OC | C22H30O3
